US07488735B2
Preparation of N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-N-methyl-9H-xanthene-9-carboxamide Example 47
Oxalyl chloride (0.540 ml, 0.0062 mol) was added to a solution of 9H-xanthene-9-carboxylic acid (1.16 g, 0.0051 mol) and dimethylformamide (two drops) in 20 ml of CHCl3 (ethanol free) at 0° C. The mixture was allowed to warm to room temperature under stirring and maintained 1 h at this temperature. After this time, the reaction mixture was concentrated to dryness in vacuo and the obtained residue was dissolved in CHCl3 (15 ml) and concentrated again. This procedure was repeated two times. The obtained residue was dissolved in CHCl3 and the solution cooled to 0° C. A solution of 0.865 g (0.0062 mol) of (3R)-N-methylquinuclidin-3-amine (Intermediate I-4) in 10 ml of CHCl3 was added. The mixture was allowed to warm to room temperature under stirring. After 4 hours at this temperature, the reaction mixture was treated with K2CO3 (saturated solution) and the aqueous phase was extracted with CHCl3. The organic solutions were combined and washed with K2CO3 (saturated solution) and water, dried over Na2SO4 filtered and concentrated to dryness. The obtained residue was purified by column chromatography (silica gel, CHCl3: NH4OH 99:1→CHCl3: MeOH:NH4OH 98:2:1 as eluent) to yield 900 mg (50%) of the title product.

reactant | Oxalyl chloride | 0.0062 mol, 0.540 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 9H-xanthene-9-carboxylic acid | 0.0051 mol, 1.16 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)C(=O)O | C14H10O3
reactant | (3R)-N-methylquinuclidin-3-amine | 0.0062 mol, 0.865 g | CN[C@H]1CN2CCC1CC2 | C8H16N2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
catalyst | dimethylformamide | two drops | CN(C=O)C | C3H7NO
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-N-methyl-9H-xanthene-9-carboxamide | 900 mg, 50% | N12C[C@@H](C(CC1)CC2)N(C(=O)C2C1=CC=CC=C1OC=1C=CC=CC21)C | C22H24N2O2
